US05861510
To a solution of (+)-(E)-N-(2-hydroxy-pent-3-enyl)-4-methoxybenzenesulfonamide (1.2 grams, 4.42 mmol) in tetrahydrofuran-dimethylformamide (10 mL, ca. 3:1) at 0° C. is added sodium bis(trimethylsilyl)amide (4.9 mL, 1.0M solution in tetrahydrofuran). After 10 minutes, t-butylbromoacetate (786 mL, 4.83 mmol) is added. The mixture is warmed to room temperature, stirred for 1 hour and quenched with saturated ammonium chloride solution. The mixture is extracted with ethyl acetate and the combined extracts are dried (sodium sulfate), filtered and concentrated. The crude product is purified by silica gel chromatography (elution with 1:1 ethyl acetate-hexanes) to provide [(2-hydroxy-pent-3-enyl)-(4-methoxybenzenesulfonyl)-amino]-acetic acid t-butyl ester.

reactant | (+)-(E)-N-(2-hydroxy-pent-3-enyl)-4-methoxybenzenesulfonamide | 4.42 mmol, 1.2 grams | OC(CNS(=O)(=O)C1=CC=C(C=C1)OC)\C=C\C | C12H17NO4S
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 4.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | t-butylbromoacetate | 4.83 mmol, 786 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | tetrahydrofuran dimethylformamide | 10 mL | O1CCCC1.CN(C=O)C
product | [(2-hydroxy-pent-3-enyl)-(4-methoxybenzenesulfonyl)-amino]-acetic acid t-butyl ester | C(C)(C)(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)OC)CC(C=CC)O)=O | C18H27NO6S
